US09079866B2
To a suspension of crude sodium (2-bromophenyl)methanesulfonate (34 g) in toluene (500 mL) was added PCl5 (34 g, 0.16 mol). The resulting mixture was stirred at 100° Celsius for 4 hours before concentrating to dryness and pouring the residue onto crushed ice (150 g), stirring for 5 min, and extracting with DCM (3×50 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated to dryness to give (2-bromophenyl)methanesulfonyl chloride (16.8 g, 77%). 1H NMR (300 MHz, DMSO-d6) δ 7.62-7.45 (m, 2H), 7.29 (m, 1H), 7.18-7.01 (m, 1H), 3.97 (s, 2H).

reactant | sodium (2-bromophenyl)methanesulfonate | 34 g | BrC1=C(C=CC=C1)CS(=O)(=O)[O-].[Na+]
reactant | PCl5 | 0.16 mol, 34 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (2-bromophenyl)methanesulfonyl chloride | 16.8 g, 77% | BrC1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6BrClO2S
